US08119627B2
1-Trifluoromethoxy-4-(2-nitro-phenoxy)-benzene HVB01037 C13H8F3NO4, MW 299.21
4-(trifluoromethoxy)phenol (1.36 ml, 10.6 mmol), 2-fluoro-1-nitrobenzene (0.74 ml, 7 mmol), potassium carbonate (1.46 g, 10.5 mmol) were mixed together in DMF (4 ml) and heated at reflux for 5 h. Allowed to cool, and evaporated in-vacuo. Residue partitioned between diethyl ether and sodium hydroxide (1 M). Organic layers combined and dried over anhydrous magnesium sulphate and evaporated in-vacuo, to afford a yellow oil, 2.34 g, >100%. Rf: 0.72 (DCM), 1HNMR (CDCl3, 270 MHz) δ 7.03 (3H, m, Ar HD, Ar HF), 7.20 (2H, dd, J=0.9, 10.1 Hz, Ar HE), 7.23 (1H, m, Ar HB), 7.53 (1H, m, Ar HC), 7.97 (1H, dd, J=1.5, 8.2 Hz, Ar HA).

reactant | 4-(trifluoromethoxy)phenol | 10.6 mmol, 1.36 ml | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | 2-fluoro-1-nitrobenzene | 7 mmol, 0.74 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 10.5 mmol, 1.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-Trifluoromethoxy-4-(2-nitro-phenoxy)-benzene | FC(OC1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])(F)F | C13H8F3NO4
